US08835428B2
(S)-1-{3-[3-(6-Fluoro-benzothiazol-2-ylamino)-phenyl]-isoxazole-5-carbonyl}-pyrrolidine-2-carboxylic acid methyl ester
The title compound was prepared according to the procedure as set forth in Example 5, except that 3-[3-(6-fluoro-benzothiazol-2-ylamino)-phenyl]-isoxazole-5-carboxylic acid was used instead of the compound of Example 2 and (S)-pyrrolidine-2-carboxylic acid methyl ester hydrochloride was used in place of (S)-Val-OMe.HCl to yield 41% of the title compound. Mass (ES+): 467 (M++1), 489 (M++Na); IR (KBr): 3295, 3110, 2951, 1742, 1626, 1613, 1568 (br), 1454, 1411; 1H NMR (DMSO-d6) δ: 1.70-2.39 (4×m, 4H), 3.65 (s, 3H), 3.64, 3.92 (2×m, 2H), 4.55, 5.10 (2×m, 1H), 7.17 (m, 1H), 7.52-7.64 (m, 3H), 7.65 (s, 1H), 7.75 (dd, 1H), 7.95 (m, 1H), 8.32 (m, 1H), 10.68 (s, 1H).

reactant | 3-[3-(6-fluoro-benzothiazol-2-ylamino)-phenyl]-isoxazole-5-carboxylic acid | FC1=CC2=C(N=C(S2)NC=2C=C(C=CC2)C2=NOC(=C2)C(=O)O)C=C1 | C17H10FN3O3S
reactant | (S)-pyrrolidine-2-carboxylic acid methyl ester hydrochloride | Cl.COC(=O)[C@H]1NCCC1
product | (S)-1-{3-[3-(6-Fluoro-benzothiazol-2-ylamino)-phenyl]-isoxazole-5-carbonyl}-pyrrolidine-2-carboxylic acid methyl ester | 41% | COC(=O)[C@H]1N(CCC1)C(=O)C1=CC(=NO1)C1=CC(=CC=C1)NC=1SC2=C(N1)C=CC(=C2)F | C23H19FN4O4S
